US06498165B1
2-[(S)-1-Phenylethylamino]-4-[6-(3-carboxyphenyl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 416, starting from 2-[(S)-1-Phenylethylamino]-4-[6-iodobenzimidazol-1-yl]pyrimidine and 3-carboxyphenylboronic acid. Mass spectrum (ESI) 436.3 (M+1).

reactant | 2-[(S)-1-Phenylethylamino]-4-[6-iodobenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)I | C19H16IN5
reactant | 3-carboxyphenylboronic acid | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
product | 2-[(S)-1-Phenylethylamino]-4-[6-(3-carboxyphenyl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C2=CC(=CC=C2)C(=O)O | C26H21N5O2
